US04780480
To a solution of toluene (200 ml) containing cresol (108 g) under a nitrogen atmosphere was added tin tetrachloride (26 g) and tri-N-butylamine (54 g). This mixture was stirred at room temperature for 20 minutes and 66 g of paraformaldehyde added. This solution was then heated at 100° C. for 8 hours. After cooling to room temperature, the reaction mixture was added to water (500 ml) acidified to pH 2 with hydrochloric acid (2N) and extracted with ether, washed with brine, dried (MgSO4) and evaporated to give 2-hydroxy-4-methylbenzaldehyde, m.p.--60°-61° C.

reactant | cresol | 108 g | C1(=CC=CC=C1O)C | C7H8O
reactant | tin tetrachloride | 26 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | paraformaldehyde | 66 g | C=O | CH2O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | 500 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-4-methylbenzaldehyde | OC1=C(C=O)C=CC(=C1)C | C8H8O2
